US06248765B1
2-(3-(1H-Imidazol-4-yl)propyloxy)-1-(3-nitrophenyl)ethanone
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 5 mmol of 2-bromo-1-(3-nitrophenyl)ethanone are treated as described in Example 74.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | 2-bromo-1-(3-nitrophenyl)ethanone | 5 mmol | BrCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6BrNO3
product | 2-(3-(1H-Imidazol-4-yl)propyloxy)-1-(3-nitrophenyl)ethanone | N1C=NC(=C1)CCCOCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H15N3O4
